US08492378B2
2-[3-[4-[(fluoromethyl)thio]phenyl]-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole
To a solution of [bis(2-methoxyethyl)amino]sulfur trifluoride (1.38 mL, 7.50 mmol) in dichloromethane (10 mL) was added dropwise a solution of 2-methyl-5-[3-[4-(methylthio)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole (1.61 g, 5.00 mmol) in dichloromethane (15 mL) at room temperature. Antimony (III) chloride (0.0570 g, 0.250 mmol) was added to the solution, and the resulting mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/tetrahydrofuran=1/1) and recrystallized from hexane/ethyl acetate to give the title compound (517 mg, yield 30%) as pale-yellow crystals.

reactant | [bis(2-methoxyethyl)amino]sulfur trifluoride | 7.50 mmol, 1.38 mL | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | 2-methyl-5-[3-[4-(methylthio)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | 5.00 mmol, 1.61 g | CC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)SC)C1 | C18H14N2O2S
reactant | Antimony (III) chloride | 0.250 mmol, 0.0570 g | [Sb](Cl)(Cl)Cl
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-[4-[(fluoromethyl)thio]phenyl]-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole | 517 mg, yield 30% | FCSC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C18H13FN2O2S
